US04031071
d. Nα-t-Butoxycarbonyl-D-alanyl-D-leucine resin
Nα-t-Butoxycarbonyl-D-leucine resin (53 g., 42.9 mmol) is deprotected as in part (b), and Nα-t-butoxycarbonyl-D-alanine (8.5 g., 45 mmol) is added followed by the addition of dicyclohexylcarbodiimide, 9.3 g., 45 mmol in chloroform, after 15 to 30 minutes, followed by agitation for 18 hours. The product is separated by filtration and washed three times with dichloromethane, 250 ml., and dried.

reactant | Nα-t-Butoxycarbonyl-D-leucine | 42.9 mmol, 53 g | C(C)(C)(C)OC(=O)N[C@H](CC(C)C)C(=O)O | C11H21NO4
reactant | Nα-t-butoxycarbonyl-D-alanine | 45 mmol, 8.5 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Nα-t-Butoxycarbonyl-D-alanyl-D-leucine | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)N[C@H](CC(C)C)C(=O)O | C14H26N2O5
